US07276612B2
To a solution of diisopropyl azodicarboxylate (DIAD, 4.04 g, 20 mmol) in THF (100 ml) at 0° C. was added triphenylphosphine (5.25 g, 20 mmol). After 1 h, a solution of Boc-ethanolamine (3.22 g, 20 mmol) in THF (10 ml) was added. After 20 min., a solution of methyl 4-mercaptobenzoate (3.86 g, 20 mmol) in THF (10 ml) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated and ethyl acetate (150 ml) was added. The solution was washed with 1M HCl, saturated aqueous NaHCO3, brine, dried over MgSO4, filtered, and evaporated to dryness. The oily yellow residue was eluted through a plug of silica gel (0-20 ethyl acetate in hexane as mobile phase) and the product was then recrystallized from ether and hexane to give methyl 4-(2-tert-butoxycarbonylaminoethylsulfanyl)benzoate (4.00 g).

reactant | diisopropyl azodicarboxylate | 20 mmol, 4.04 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 20 mmol, 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Boc-ethanolamine | 20 mmol, 3.22 g | C(=O)(OC(C)(C)C)C(O)CN | C7H15NO3
reactant | methyl 4-mercaptobenzoate | 20 mmol, 3.86 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 4-(2-tert-butoxycarbonylaminoethylsulfanyl)benzoate | 4.00 g | C(C)(C)(C)OC(=O)NCCSC1=CC=C(C(=O)OC)C=C1 | C15H21NO4S
